US07960409B2
Step 1: 2-oxo-4-pyridin-3-yl-2H-chromen-7-yl trifluoromethanesulfonate
To a solution of commercially available 7-hydroxy-4-(pyridine-3-yl) coumarin (5 g, 20.9 mmol) and triethylamine (3.8 mL, 27 mmol) in dichloromethane (75 mL) cooled at −30° C. a solution of triflic anhydride in CH2Cl2 (4.24 mL, 25 mmol in 25 mL) was added dropwise (internal temperature kept below −30° C. during addition). After addition, the mixture was stirred 1 hour at −30° C. and then slowly warmed to 0° C. The reaction was poured into a saturated solution of ammonium chloride and the aqueous layer was extracted twice with dichloromethane. The combined organic extracts were washed with brine, dried over MgSO4, filtered and concentrated. The crude residue obtained was used as such for the next step. 1H NMR (400 MHz, acetone-d6): 8.90-8.80 (m, 2H), 8.11 (d, 1H), 7.75-7.65 (m, 3H), 7.47 (d, 1H), 6.61 (s, 1H).

reactant | 7-hydroxy-4-(pyridine-3-yl) coumarin | 20.9 mmol, 5 g | OC1=CC=C2C(=CC(OC2=C1)=O)C=1C=NC=CC1 | C14H9NO3
reactant | triethylamine | 27 mmol, 3.8 mL | C(C)N(CC)CC | C6H15N
reactant | triflic anhydride | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
solvent | CH2Cl2 | 25 mmol, 4.24 mL | C(Cl)Cl | CH2Cl2
product | 2-oxo-4-pyridin-3-yl-2H-chromen-7-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=CC=C2C(=CC(OC2=C1)=O)C=1C=NC=CC1)(F)F | C15H8F3NO5S
